US07538931B2
Hhb=N,N-Bis(pyridin-2-ylmethyl)propan-1-amine
To a flask were added 1.0 g di-(2-picolyl)amine, 0.85 g of pulverized potassium hydroxide and 15 ml of N,N-dimethylformamide. After stirring for 1 hour under nitrogen, the mixture was cooled to 5 C and 1.7 g of 1-iodopropane were added. The mixture was heated to 35 C and stirred for 16 hours. After quenching with 30 ml water, the product was extracted with ethyl acetate and washed twice with water. Following removal of solvent, the product was purified by silica gel chromatography using ethyl acetate to give 0.65 g of a yellow oil.

reactant | di-(2-picolyl)amine | 1.0 g | N1=C(C=CC=C1)CNCC1=NC=CC=C1 | C12H13N3
reactant | potassium hydroxide | 0.85 g | [OH-].[K+]
reactant | 1-iodopropane | 1.7 g | ICCC | C3H7I
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N,N-Bis(pyridin-2-ylmethyl)propan-1-amine | 0.65 g | N1=C(C=CC=C1)CN(CCC)CC1=NC=CC=C1 | C15H19N3
